US09108921B2
Step E: Compound 402: 2-amino-N-(4-(4-hydroxy-4-isobutylpiperidine-1-carbonyl)phenyl)quinoline-8-sulfonamide
To a mixture of 4-isobutylpiperidin-4-ol (70 mg, 0.44 mmol), 4-(2-aminoquinoline-8-sulfonamido)benzoic acid (100 mg, 0.44 mmol), and HBTU (134 mg, 0.53 mmol) in DCM (5 mL) was added DIPEA (1 mL) dropwise at room temperature, and then the mixture was stirred at room temperature for 1 hour. The resulting mixture was concentrated, purified by a standard method to yield the title compound. 1H NMR (CHLOROFORM-d) δ: 8.10-8.20 (m, 1H), 7.89 (d, J=9.1 Hz, 1H), 7.69-7.82 (m, 1H), 7.06-7.26 (m, 5H), 6.80 (d, J=9.1 Hz, 1H), 5.41 (s, 2H), 4.33 (br. s., 1H), 3.41-3.19 (m., 3H), 1.82 (dt, J=12.9, 6.4 Hz, 1H), 1.63-1.46 (m, 4H), 1.40 (d, J=5.9 Hz, 2H), 0.97 (d, J=6.7 Hz, 6H). LCMS (m/z): 483.7 (M+1)+

reactant | 4-isobutylpiperidin-4-ol | 0.44 mmol, 70 mg | C(C(C)C)C1(CCNCC1)O | C9H19NO
reactant | 4-(2-aminoquinoline-8-sulfonamido)benzoic acid | 0.44 mmol, 100 mg | NC1=NC2=C(C=CC=C2C=C1)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C16H13N3O4S
reactant | HBTU | 0.53 mmol, 134 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(4-(4-hydroxy-4-isobutylpiperidine-1-carbonyl)phenyl)quinoline-8-sulfonamide | NC1=NC2=C(C=CC=C2C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)(CC(C)C)O | C25H30N4O4S
